US06107329
(2S)-Amino-1-morpholin-4-yl-propan-1-one hydrochloride
((1S)-Methyl-2-morpholin-4-yl-2-oxo-ethyl)-carbamic acid tert-butyl ester (3.88 g, 15 mmol) was dissolved in 4M HCl-dioxane (20 ml) at 25° C. for 1.25 hours. The mixture was concentrated and the residue triturated with ether and dried: Yield 2.51 g, 86%.

reactant | ((1S)-Methyl-2-morpholin-4-yl-2-oxo-ethyl)-carbamic acid tert-butyl ester | 15 mmol, 3.88 g | C(C)(C)(C)OC(N[C@H](C(=O)N1CCOCC1)C)=O | C12H22N2O4
reactant | HCl dioxane | 4M, 20 ml | Cl.O1CCOCC1
product | (2S)-Amino-1-morpholin-4-yl-propan-1-one hydrochloride | Cl.N[C@H](C(=O)N1CCOCC1)C | InChI=1S/C7H14N2O2.ClH/c1-6(8)7(10)9-2-4-11-5-3-9;/h6H,2-5,8H2,1H3;1H/t6-;/m0./s1
